US04464300
A solution of 13.4 g of 8-chloro-6-(2-fluorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine 5,5-dioxide in 380 ml of hexamethylphosphoric acid triamide is treated with 7.7 g of 2,4-bis-(4-methoxyphenyl)-1,2,3,4-dithiadiphosphetane-2,4-disulphide, the mixture is heated to 100° for 2 hours, again cooled to room temperature and then poured into 8.3 l of water. The mixture is extracted twice with ethyl acetate and the organic extracts are washed with water and with saturated sodium chloride solution. The ethyl acetate solutions are evaporated and the residue is chromatographed on 500 g of silica gel. By elution with chloroform which contains 0.5% ethanol and crystallization from ether there is obtained 8-chloro-6-(2-fluorophenyl)-1,3,4,6-tetrahydro-2-thiono-2H-5,1-benzothiazocine 5,5-dioxide of melting point 226°.

reactant | 8-chloro-6-(2-fluorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine 5,5-dioxide | 13.4 g | ClC=1C=CC2=C(C(S(CCC(N2)=O)(=O)=O)C2=C(C=CC=C2)F)C1 | C16H13ClFNO3S
reactant | 2,4-bis-(4-methoxyphenyl)-1,2,3,4-dithiadiphosphetane-2,4-disulphide | 7.7 g | COC1=CC=C(C=C1)S1(SP(P1)(C1=CC=C(C=C1)OC)=S)=S | C14H16O2P2S4
reactant | water | 8.3 l | O | H2O
solvent | hexamethylphosphoric acid triamide | 380 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 8-chloro-6-(2-fluorophenyl)-1,3,4,6-tetrahydro-2-thiono-2H-5,1-benzothiazocine 5,5-dioxide | ClC=1C=CC2=C(C(S(CCC(N2)=S)(=O)=O)C2=C(C=CC=C2)F)C1 | C16H13ClFNO2S2
